US07981903B2
A solution of 1-[(dimethylamino)acetyl]-2,3-dihydro-1H-indol-6-amine (3.0 g, 13.68 mmol) in acetonitrile (150 mL) was treated with N-chlorosuccinimide (2.010 g, 15.05 mmol) and stirred at room temperature for 15 minutes. The solution was poured into chloroform/saturated sodium bicarbonate (aq.) and the organic layer was dried over sodium sulfate, filtered, taken to a residue under reduced pressure, and purified by column chromatography to afford 5-chloro-1-[(dimethylamino)acetyl]-2,3-dihydro-1H-indol-6-amine (0.510 g, 15% yield) as a pale yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.66 (s, 1 H), 7.01 (s, 1 H), 5.21 (s, 2 H), 4.08 (t, J=8.33 Hz, 2 H), 3.16 (s, 2 H), 2.95 (t, J=8.33 Hz, 2 H), 2.25 (s, 6 H).

reactant | 1-[(dimethylamino)acetyl]-2,3-dihydro-1H-indol-6-amine | 13.68 mmol, 3.0 g | CN(C)CC(=O)N1CCC2=CC=C(C=C12)N | C12H17N3O
reactant | N-chlorosuccinimide | 15.05 mmol, 2.010 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | 5-chloro-1-[(dimethylamino)acetyl]-2,3-dihydro-1H-indol-6-amine | 0.510 g, 15% yield | ClC=1C=C2CCN(C2=CC1N)C(CN(C)C)=O | C12H16ClN3O
